US04260761
A solution of 5.03 g of 3-benzofuranethanol and 8 g of p-toluenesulfonyl chloride in 20 ml of pyridine was kept in a refrigerator for one week. Most of the pyridine was removed under vacuum, and the residue dissolved in ether and washed successively with 5% hydrochloric acid, water, and 5% sodium bicarbonate solution and dried. Removal of the solvent left 5.93 g of crude 3-benzofuranethanol, p-toluenesulfonate which was heated with 8 g of methylamine in 25 ml of tetrahydrofuran to 100° for 4 hours. The mixture was concentrated, made basic with aqueous sodium hydroxide, and extracted with methylene chloride. The crude amine so obtained was short-path distilled (bath 120°, 0.5 micron) to give 3.17 g (59% yield) of N-methyl 3-benzofuranethylamine. NMR spectrum (in CDCl3): τ2.4-3.0 (m, 5); 7.2 (s, 4); 7.6 (s, 3) and 9.0 (s, 1).

reactant | 3-benzofuranethanol | 5.03 g | O1C(=CC2=C1C=CC=C2)CCO | C10H10O2
reactant | p-toluenesulfonyl chloride | 8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl 3-benzofuranethylamine | 3.17 g, 59% yield | CNCCC1=CC2=C(O1)C=CC=C2 | C11H13NO
